US09376392B2
Preparation of (S)-2-(5-bromo-2,7-dimethylquinolin-6-yl)-2-tert-butoxyethyl pivalate:
To a stirred solution of (S)-2-(5-bromo-2,7-dimethylquinolin-6-yl)-2-hydroxyethyl pivalate (330 mg, 0.87 mmol) in t-butylacetate (10 mL) was added perchloric acid (0.3 mL, 3.5 mmol) at 0° C. The mixture was stirred at room temperature for 2 hours, quenched with slowly addition of NaHCO3 solution. The mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated in vacuo. The obtained residue was purified by flash chromatography to provide the desired product. LCMS-ESI+: calc'd for C22H30BrNO3: 436.1 (M+H+); Found: 436.2 (M+H+).

reactant | (S)-2-(5-bromo-2,7-dimethylquinolin-6-yl)-2-hydroxyethyl pivalate | 0.87 mmol, 330 mg | C(C(C)(C)C)(=O)OC[C@@H](O)C=1C(=C2C=CC(=NC2=CC1C)C)Br | C18H22BrNO3
reactant | perchloric acid | 3.5 mmol, 0.3 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | t-butylacetate | 10 mL | C(C)(C)(C)OC(C)=O | C6H12O2
product | (S)-2-(5-bromo-2,7-dimethylquinolin-6-yl)-2-tert-butoxyethyl pivalate | C(C(C)(C)C)(=O)OC[C@@H](OC(C)(C)C)C=1C(=C2C=CC(=NC2=CC1C)C)Br | C22H30BrNO3
